US06410529B1
102. N-[3-(3-Quinolin-4-ylureido)phenyl]methanesulphonamide
Methanesulphonyl chloride (27 ul) was added to 1-(3-aminophenyl)-3-quinolin-4-ylurea (0.08 g) in dichloromethane (25 ml) containing triethylamine (48 ul) and stirred for 16 h. The precipitate that formed was separated by filtration, washed with tetrahydrofuran and diethyl ether and dried to give the title compound (0.081 g).

reactant | Methanesulphonyl chloride | 27 ul | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(3-aminophenyl)-3-quinolin-4-ylurea | 0.08 g | NC=1C=C(C=CC1)NC(=O)NC1=CC=NC2=CC=CC=C12 | C16H14N4O
reactant | triethylamine | 48 ul | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N-[3-(3-Quinolin-4-ylureido)phenyl]methanesulphonamide | 0.081 g | N1=CC=C(C2=CC=CC=C12)NC(NC=1C=C(C=CC1)NS(=O)(=O)C)=O | C17H16N4O3S
